US04153719
(a) Ethyl 4-(4-methoxystyryl)benzoate
4'-Methoxystilbenenitrile, 72.5 g. [Neher et al., Helv. Chim. Acta 29, 449-67 (1946)] in 1 liter of 5N hydrogen chloride in ethanol was heated under reflux for eight hours. An additional 100 ml. of 10N hydrogen chloride in ethanol was added and refluxing continued for about sixteen hours. An additional 100 ml. of 10N hydrogen chloride in ethanol was then added and refluxing continued for six hours. The reaction mixture was diluted with 2 liters of water, and the solid product which separated was collected by filtration and air-dried. The product was dissolved in methylene dichloride, dried over anhydrous magnesium sulfate and the solvent removed to give 73 g. of ethyl 4-(4-methoxystyryl)benzoate, m.p. 191°-192° C. when recrystallized from ethanol.

reactant | 4'-Methoxystilbenenitrile | COC1=CC=C(C=CC=2C(=CC=CC2)C#N)C=C1 | C16H13NO
reactant | water | 2 liters | O | H2O
solvent | hydrogen chloride | 5N, 1 liter | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | hydrogen chloride | 10N | Cl | ClH
solvent | hydrogen chloride | 10N | Cl | ClH
product | Ethyl 4-(4-methoxystyryl)benzoate | COC1=CC=C(C=CC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H18O3
